US04367234
2-(2-Chloro-6-fluorophenyl)-2-hydroxyacetamide (3 g., 15 mmoles) was taken into 40 ml. of tert-butanol and dimethyl carbonate (2.7 g., 2.5 ml. 30 mmoles). Potassium tert-butoxide (3.4 g., 30 mmoles) was added portionwise and the reaction mixture heated to reflux for 65 minutes, cooled to room temperature, quenched by the portionwise addition of 60 ml. of 1 N hydrochloric acid, poured into 200 ml. of water and extracted with three portions of ethyl acetate. The combined organic extracts were washed with water, washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated to yield 5-(2-chloro-6-fluorophenyl)oxazolidine-2,4-dione (3.5 g.). Purified product was obtained by recrystallization from toluene (3.0 g., m.p. 156°-158° C.).

reactant | 2-(2-Chloro-6-fluorophenyl)-2-hydroxyacetamide | 15 mmoles, 3 g | ClC1=C(C(=CC=C1)F)C(C(=O)N)O | C8H7ClFNO2
reactant | dimethyl carbonate | 30 mmoles, 2.5 ml, 2.7 g | C(OC)(OC)=O | C3H6O3
reactant | Potassium tert-butoxide | 30 mmoles, 3.4 g | CC(C)([O-])C.[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 5-(2-chloro-6-fluorophenyl)oxazolidine-2,4-dione | 3.5 g | ClC1=C(C(=CC=C1)F)C1C(NC(O1)=O)=O | C9H5ClFNO3
